US07622585B2
To a solution of 2-isopropoxyphenol (1.53 g, 10 mmol) in CH2Cl2 at 0° C., was added pyridine (1.76 mL, 22 mmol) followed by acetyl chloride (0.79 mL, 1.1 eq). The mixture was stirred at 0° C. for 1.0 h, diluted with diethyl ether, washed with 5% citric acid and brine. The organic extract was dried over Na2SO4, evaporated to give 2-isopropoxyphenyl acetate as an oil.

reactant | 2-isopropoxyphenol | 10 mmol, 1.53 g | C(C)(C)OC1=C(C=CC=C1)O | C9H12O2
reactant | pyridine | 22 mmol, 1.76 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.79 mL, 1.1 eq | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-isopropoxyphenyl acetate | C(C)(=O)OC1=C(C=CC=C1)OC(C)C | C11H14O3
